US09376422B2
Step 5: Synthesis of tert-butyl 4-(allyl(5-chloro-3-(methoxycarbonyl)-2-methylphenyl)amino)piperidine-1-carboxylate
To a stirred solution of tert-butyl 4-((5-chloro-3-(methoxycarbonyl)-2-methylphenyl)amino)piperidine-1-carboxylate (0.70 g, 1.82 mmol) in DMF (7 mL), was added NaH (0.052 g, 2.19 mmol) at 0° C. After stirring for 20 minutes, 3-bromoprop-1-ene (0.44 g, 3.64 mmol) was added and the mixture was heated at 80° C. for 15 h. On completion, the reaction mass was quenched with ice cold water and extraction was carried out using DCM. The combined organic layers were dried, concentrated under reduced pressure and the residue was purified by column chromatography to afford the title compound (0.3 g, 39%).

reactant | tert-butyl 4-((5-chloro-3-(methoxycarbonyl)-2-methylphenyl)amino)piperidine-1-carboxylate | 1.82 mmol, 0.70 g | ClC=1C=C(C(=C(C1)NC1CCN(CC1)C(=O)OC(C)(C)C)C)C(=O)OC | C19H27ClN2O4
reactant | NaH | 2.19 mmol, 0.052 g | [H-].[Na+]
reactant | 3-bromoprop-1-ene | 3.64 mmol, 0.44 g | BrCC=C | C3H5Br
solvent | DMF | 7 mL | CN(C)C=O | C3H7NO
product | tert-butyl 4-(allyl(5-chloro-3-(methoxycarbonyl)-2-methylphenyl)amino)piperidine-1-carboxylate | 0.3 g, 39% | C(C=C)N(C1CCN(CC1)C(=O)OC(C)(C)C)C1=C(C(=CC(=C1)Cl)C(=O)OC)C | C22H31ClN2O4
